US04904690
2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran
NaCN (3.88 g, 0.075 mole) was dissolved in water (11 ml) and to the solution was added benzyltrimethylammonium chloride (13.9 g, 0.075 mole). After stirring at 50° C. for 15 minutes, chloroform (120 ml) was added and further 2 -(1-bromocyclohexyl)-8-bromomethyl-4-oxo-4H-[1]-benzopyran (12 g, 0.03 mole) was added. The mixture was stirred for 4 hours. The chloroform layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure to obtain crystals. The crude crystals were recrystallized from ethyl acetate to obtain the title compound (7.5 g) as prisms, m.p. 143°-144° C., yield 72.2%. IR and NMR spectra of this compound were identical with those of the compound obtained in Reference Example 20.

reactant | NaCN | 0.075 mole, 3.88 g | [C-]#N.[Na+]
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2 -(1-bromocyclohexyl)-8-bromomethyl-4-oxo-4H-[1]-benzopyran | 0.03 mole, 12 g | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CBr | C16H16Br2O2
solvent | water | 11 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.075 mole, 13.9 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran | 7.5 g, yield 72.2% | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC#N | C17H16BrNO2
